US09056874B2
5,7-Dimethyl-1-tosyl-1H-indol-4-amine
To a solution of 5,7-dimethyl-4-nitro-1-tosyl-1H-indole (17 g, 49.4 mmol) in MeOH (50 mL)/EtOAc (300 mL) was added Zn (16.1 g, 247 mmol). The suspension was cooled down to 0° C. To the suspension was added dropwise AcOH (30 mL) over 30 min, and then the mixture was stirred at 0° C. for 0.5 h. The flask was removed from the ice bath, and the mixture left stirring at room temperature for 18.5 h. The reaction mixture was poured into a mixture of Celite®/5% aq. NaHCO3/EtOAc, and then the basic mixture was vigorously stirred for 0.5 h. The mixture was filtered through Celite®. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic phase was washed with 5% aq. NaHCO3, H2O, and brine, dried over Na2SO4, and then filtered. Concentration of the filtrate gave the title compound, without need of further purification. MS (ESI+) m/z 315.1 (M+H).

reactant | 5,7-dimethyl-4-nitro-1-tosyl-1H-indole | 49.4 mmol, 17 g | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)[N+](=O)[O-] | C17H16N2O4S
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
reactant | AcOH | 30 mL | CC(=O)O | C2H4O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Zn | 247 mmol, 16.1 g | [Zn] | Zn
product | 5,7-Dimethyl-1-tosyl-1H-indol-4-amine | CC1=C(C=2C=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)N | C17H18N2O2S
